US07704995B2
A mixture of 3-amino-6-{3-[(2-hydroxy-indan-1-ylamino)-methyl]-phenyl}-pyrazine-2-carboxylic acid methyl ester (400.0 mg, 1.02 mmol) and 1,1-dimethylethyl (3S)-3-aminopiperidine-1-carboxylate (970.0 mg, 4.84 mmol) was heated to 120° C. overnight. The reaction mixture was poured into water (100 mL), and extracted with ethyl acetate (2×50 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by column chromatography (3% MeOH/Dichloromethane) and subsequently it was treated with 4.0 M HCl in dioxane (20 mL) to give 3-amino-6-[3-({[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}methyl)phenyl]-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide, 275.0 mg (58.7% yield). 1H NMR (400 MHz, d4-MeOH): δ 8.72 (s, 2H), 8.18 (s, 1H), 7.80 (d, 1H), 7.60 (m, 2H), 7.38 (m, 3H), 4.80 (s, 1H), 4.50(s, 2H), 4.40 (m, 1H), 3.65 (m, 2H), 3.42 (m, 5H), 3.16 (m, 2H), 2.15 (m, 2H), 1.87 (m, 1H); MS (EI) for C26H30N6O2: 459.31 (MH+).

reactant | 3-amino-6-{3-[(2-hydroxy-indan-1-ylamino)-methyl]-phenyl}-pyrazine-2-carboxylic acid methyl ester | 1.02 mmol, 400.0 mg | COC(=O)C1=NC(=CN=C1N)C1=CC(=CC=C1)CNC1C(CC2=CC=CC=C12)O | C22H22N4O3
reactant | 1,1-dimethylethyl (3S)-3-aminopiperidine-1-carboxylate | 4.84 mmol, 970.0 mg | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | water | 100 mL | O | H2O
product | 3-amino-6-[3-({[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}methyl)phenyl]-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide | 58.7% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CN[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)N[C@@H]1CNCCC1 | C26H30N6O2
